### ISSUE TITLE
bug in `cases'` goal management

### ISSUE THREAD

**Issue by robertylewis** [leanprover-community/mathlib4#2016]
```lean
import Mathlib.Tactic.Cases

example (p q : Prop) : (p → ¬ q) → ¬ (p ∧ q) := by
  intro hpnq hpq
  apply hpnq
  cases' hpq with hp hq
  assumption
  -- (kernel) declaration has metavariables '_example'


example (p q : Prop) : (p → ¬ q) → ¬ (p ∧ q) := by
  intro hpnq hpq
  apply hpnq
  cases hpq
  assumption
  cases hpq
  assumption -- succeeds
```

I can fix this with a focus at the beginning of the implementation of `cases'`, which seems like it wouldn't hurt, but I'm not sure that's the root cause.
